US05776964
tert-Butyl 2-(1H-imidazolyl)-2-oxo-acetate
58.5 g (0.79 mol) of tert-butanol are added with stirring at 0° C. under argon to 100 g (0.79 mol) of oxalyl chloride in 1.3 l of THF. After stirring at 0° C for 1 hour, 161 g (2.37 mol) of imidazole in 0.7 l of THF are added dropwise in the course of 60 min. After a further 15 min, the mixture is filtered, the solid is washed with 0.5 l of THF, and the filtrate is concentrated to a volume of 1 l, filtered again, then completely concentrated, allowed to stand overnight at 0° C. under argon and again filtered through a frit.

reactant | tert-butanol | 0.79 mol, 58.5 g | C(C)(C)(C)O | C4H10O
reactant | oxalyl chloride | 0.79 mol, 100 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | imidazole | 2.37 mol, 161 g | N1C=NC=C1 | C3H4N2
solvent | THF | 1.3 l | C1CCOC1 | C4H8O
solvent | THF | 0.7 l | C1CCOC1 | C4H8O
product | tert-Butyl 2-(1H-imidazolyl)-2-oxo-acetate | N1(C=NC=C1)C(C(=O)OC(C)(C)C)=O | C9H12N2O3
